US05290790
A. Adipic acid mono-N-cyclohexylamide
34.8 g (0.2 mol) of adipic acid monoethyl ester are added dropwise and with stirring to 19.8 g (0.2 mol) of cyclohexylamine. The temperature rises to 60° C. The reaction mixture is heated to 80° C. for 1 h. After cooling, the solution is poured into 200 ml of water and then extracted with 300 ml of ethyl ether. The ether phase is stirred into 150 ml of potassium hydrogen carbonate solution. After separation of the ether phase when settling has taken place, the aqueous phase is acidified to pH 1 with concentrated hydrochloric acid. The precipitate is drained, washed with water, dried and recrystallised in acetonitrile.

reactant | adipic acid monoethyl ester | 0.2 mol, 34.8 g | C(C)OC(CCCCC(=O)O)=O | C8H14O4
reactant | cyclohexylamine | 0.2 mol, 19.8 g | C1(CCCCC1)N | C6H13N
solvent | water | 200 ml | O | H2O
product | Adipic acid mono-N-cyclohexylamide | C1(CCCCC1)NC(CCCCC(=O)O)=O | C12H21NO3
